### PR TITLE
[Merged by Bors] - feat: `orderOf x ≠ 0 ↔ IsOfFinOrder x`

### PR DESCRIPTION
**Pull request by YaelDillies**
Also make the two existing lemmas simp.

From ClassFieldTheory

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/AddCircle/DenseSubgroup.lean [hunk 1]
```diff
@@ -61,7 +61,8 @@ iff `a` has infinite additive order. -/
 theorem denseRange_zsmul_iff {p : ℝ} [Fact (0 < p)] {a : AddCircle p} :
     DenseRange (· • a : ℤ → AddCircle p) ↔ addOrderOf a = 0 := by
   rcases QuotientAddGroup.mk_surjective a with ⟨a, rfl⟩
-  simp [denseRange_zsmul_coe_iff, addOrderOf_coe_eq_zero_iff_forall_rat_ne_div, Irrational]
+  simp [denseRange_zsmul_coe_iff, -addOrderOf_eq_zero_iff,
+    addOrderOf_coe_eq_zero_iff_forall_rat_ne_div, Irrational]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/Instances/AddCircle/DenseSubgroup.lean]: Maybe you want to add
```
theorem isOfFinAddOrder_iff_exists_rat_eq_div
    {𝕜 : Type*} [Field 𝕜] {p : 𝕜} [LinearOrder 𝕜] [IsStrictOrderedRing 𝕜] [hp : Fact (0 < p)]
    {a : 𝕜} :
    IsOfFinAddOrder (a : AddCircle p) ↔ ∃ q : ℚ, (q : 𝕜) = a / p := by
  simpa [addOrderOf_eq_zero_iff] using addOrderOf_coe_eq_zero_iff_forall_rat_ne_div.not
```
near  `addOrderOf_coe_eq_zero_iff_forall_rat_ne_div` and use that instead?

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 2]
```diff
@@ -188,14 +188,17 @@ theorem pow_orderOf_eq_one (x : G) : x ^ orderOf x = 1 := by
 theorem orderOf_eq_zero (h : ¬IsOfFinOrder x) : orderOf x = 0 := by
   rwa [orderOf, minimalPeriod, dif_neg]
 
-@[to_additive]
+@[to_additive (attr := simp)]
```
Comment (adomani) [inline Mathlib/GroupTheory/OrderOfElement.lean:191]: I am not so convinced about the `simp` attribute here: I can imagine that very often you have some formula for `orderOf` in context that you plan to use to `rw` the `orderOf` in the goal, but after you "`simp`-ed out" some trivialities.

Now, you also have to remove this lemma from the `simp` context.

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 3]
```diff
@@ -211,8 +214,8 @@ theorem orderOf_eq_iff {n} (h : 0 < n) :
     exact h1 ⟨n, h, h'⟩
 
 /-- A group element has finite order iff its order is positive. -/
-@[to_additive
-  /-- A group element has finite additive order iff its order is positive. -/]
+@[to_additive (attr := simp)
```
Comment (adomani) [inline Mathlib/GroupTheory/OrderOfElement.lean:217]: Similar comment here: having a disappearing `orderOf` does not seem unequivocally desirable.

File: Mathlib/Topology/Instances/AddCircle/DenseSubgroup.lean [hunk 4]
```diff
@@ -61,7 +61,8 @@ iff `a` has infinite additive order. -/
 theorem denseRange_zsmul_iff {p : ℝ} [Fact (0 < p)] {a : AddCircle p} :
     DenseRange (· • a : ℤ → AddCircle p) ↔ addOrderOf a = 0 := by
   rcases QuotientAddGroup.mk_surjective a with ⟨a, rfl⟩
-  simp [denseRange_zsmul_coe_iff, addOrderOf_coe_eq_zero_iff_forall_rat_ne_div, Irrational]
+  simp [denseRange_zsmul_coe_iff, -addOrderOf_eq_zero_iff,
```
Comment (adomani) [inline Mathlib/Topology/Instances/AddCircle/DenseSubgroup.lean]: ... and, indeed, here you had to remove the `simp` lemma.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/Topology/Instances/AddCircle/DenseSubgroup.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Topology/Instances/AddCircle/DenseSubgroup.lean]: Yeah, I didn't want to increase the diff too much, but I've now done it, since Damiano complained

File: Mathlib/Topology/Instances/AddCircle/DenseSubgroup.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Topology/Instances/AddCircle/DenseSubgroup.lean]: This is all because (the LHS of) `addOrderOf_coe_eq_zero_iff_forall_rat_ne_div` wasn't in simp normal form anymore. I've replaced it by its simp normal form

**Comment by YaelDillies** [comment]
bors merge

**Comment by YaelDillies** [comment]
bors merge
